US09427475B2
Step D: 4-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)butan-1-ol
To an ice bath cooled solution of 3-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)butanoic acid (5.2 g, 10.3 mmol) in anhydrous THF (100 mL) was added slowly borane-tetrahydrofuran complex (12.3 mL of a 1M soln in THF, 12.3 mmol) and the resulting mixture allowed to warm to room temperature and stirred for 3 days. Mixture quenched by the addition of methanol (5 mL) and diluted with sat. NaCl (200 mL) and extracted with EtOAc (2×150 mL); combined EtOAc layers dried over Na2SO4, filtered and evaporated. Residue purified by silca gel column chromatography (Teledyne Isco: 120 g) eluent: gradient 0-100% EtOAc in Hexanes to give the title compound (1.73 g, 34%) as a clear oil. 1H NMR (CDCl3) δ 7.40-7.28 (15H, m), 4.79 (2H, m), 4.71 (1H, d, J=12.1 Hz), 4.66 (2H, m), 4.54 (1H, d, J=11.9 Hz), 3.99 (1H, m), 3.93 (1H, m), 3.80 (3H, m), 3.65 (2H, t, J=6.5 Hz), 1.67 (2H, m), 1.60-1.41 (4H, m), 1.30 (3H, d, J=6.6 Hz).

reactant | 3-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)butanoic acid | 10.3 mmol, 5.2 g | C(C1=CC=CC=C1)O[C@@H]1[C@@H](O[C@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C)C(CC(=O)O)C | C31H36O6
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)butan-1-ol | 1.73 g, 34% | C(C1=CC=CC=C1)O[C@@H]1[C@@H](O[C@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C)CCCCO | C31H38O5
